US20010023250A1
3-(6, 7-Dimethoxyquinolin-3-yl-amino)-2,2-dimethyl-propan-1-ol
The reaction is run similar to the preparation in Example 7. To a MeOH solution of 4 Å powdered molecular sieves (0.35 g) under argon is added 3-amino-6, 7-dimethoxyquinoline (0.32 g, 1.6 mmol) and 2.2-dimethyl-3-hydroxypropionaldelhyde (0.19 g, 1.9 mmol). The product mixture is chromatographed (3% MeOH/CHCl3) to afford 0.10 g of material which is partitioned between CH2Cl2/10% NaOH. The organic layer is washed with 10% NaOH, H2O, and brine, then dried (MgSO4), and recrystallized from EtOAc/hexanes to provide a light-orange solid (m.p. 170-173.5° C.). Anal. Calcd. for C16H22N2O3: C, 66.18; H, 7.64; N, 9.65; Found: C. 66.11; H, 7.49; N, 9.33.

reactant | 3-amino-6, 7-dimethoxyquinoline | 1.6 mmol, 0.32 g | NC=1C=NC2=CC(=C(C=C2C1)OC)OC | C11H12N2O2
reactant | MeOH | CO | CH4O
product | 3-(6, 7-Dimethoxyquinolin-3-yl-amino)-2,2-dimethyl-propan-1-ol | 0.10 g | COC=1C=C2C=C(C=NC2=CC1OC)NCC(CO)(C)C | C16H22N2O3
